US05051413
2.0 g of E-2-amino-5-phosphono-3-pentenoic acid are suspended in 40 ml of n-butanol and the suspension is saturated with hydrogen chloride gas for 3 hours at 40°. After concentration, the residue is dissolved in 30 ml of n-butanol, 15 ml of propylene oxide are added and the precipitate is filtered off. Recrystallisation from water/acetone 1:1 yields E-2-amino-5-phosphono-3-pentenoic acid butyl ester, m.p. 160°-161°.

reactant | E-2-amino-5-phosphono-3-pentenoic acid | 2.0 g | NC(C(=O)O)\C=C\CP(=O)(O)O | C5H10NO5P
reactant | hydrogen chloride | Cl | ClH
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
product | E-2-amino-5-phosphono-3-pentenoic acid butyl ester | C(CCC)OC(C(\C=C\CP(=O)(O)O)N)=O | C9H18NO5P
